US20010053851A1
A solution of 3-cyclopentyl-2-(4-trimethylsilanylethynyl-phenyl)-propionic acid methyl ester (600 mg, 1.83 mmol) in methanol (10 mL) and water (10 mL) was treated with lithium hydroxide (877 mg, 20.9 mmol). The reaction mixture was stirred at 25° C. for 18 h. At this time, the reaction was concentrated in vacuo. The residue was re-dissolved in water (40 mL) which was then acidified to pH=2 with concentrated hydrochloric acid. This solution was extracted with ethyl acetate (2×40 mL). The combined organic extracts were washed with a half-saturated aqueous sodium chloride solution (1×40 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-(4-ethynyl-phenyl)-propionic acid (448 mg, 100%) as a tan solid: mp 80-83° C.; EI-HRMS m/e calcd for C16H18O2 (M+) 242.1306, found 242.1309.

reactant | 3-cyclopentyl-2-(4-trimethylsilanylethynyl-phenyl)-propionic acid methyl ester | 1.83 mmol, 600 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C20H28O2Si
reactant | lithium hydroxide | 20.9 mmol, 877 mg | [OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 3-cyclopentyl-2-(4-ethynyl-phenyl)-propionic acid | 448 mg, 100% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C#C | C16H18O2
